US05578620
3-Phenyl-2-hydroxypropylazide
A procedure similar to that described in Preparation 12 was repeated, except that 5 g of (±)-(2,3-epoxypropyl)benzene, 12.1 g of sodium azide, 60 ml of methyl formate and 270 ml of an 8:1 by volume mixture of methanol and water were used, to give 6.03 g of the title compound as a colorless oil having an Rf value of 0.3 (on silica gel thin layer chromatography, using a 1:4 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | (±)-(2,3-epoxypropyl)benzene | 5 g | O1C(CC2=CC=CC=C2)C1 | C9H10O
reactant | sodium azide | 12.1 g | [N-]=[N+]=[N-].[Na+]
reactant | methyl formate | 60 ml | C(=O)OC | C2H4O2
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 3-Phenyl-2-hydroxypropylazide | 6.03 g | C1(=CC=CC=C1)CC(CN=[N+]=[N-])O | C9H11N3O
